US09125814B2
Levobupivacaine-Loaded TC Gel (In situ Precipitate)
In a first vial, levobupivacaine-HCl (25 mg), 4-arm PEG succinimidyl carbonate (60 mg) and 4-arm PEG-SH (60 mg) were dissolved in 250 μL of pH 2.2 buffer. This solution was combined with an equal volume of carbonate buffer (pH 9.7) through a spray kit. Levobupivacaine precipitated within the gel upon mixing. The levobupivacaine-loaded TC gel swelled 2-2.5 times its original volume.

reactant | levobupivacaine HCl | 25 mg | CCCCN1CCCC[C@H]1C(=O)NC=2C(=CC=CC2C)C.Cl
reactant | succinimidyl carbonate | 60 mg | C(ON1C(CCC1=O)=O)([O-])=O
reactant | carbonate | pH 9.7 | C([O-])([O-])=O
product | Levobupivacaine | CCCCN1CCCC[C@H]1C(=O)NC=2C(=CC=CC2C)C | C18H28N2O
